US06410562B1
Step A: 2-(4-Chlorophenylthio)-1-(4-methylphenyl)ethanone (X=Cl)
A mixture of 10.0 g (47 mmol) 4-methylphenacyl bromide, 6.8 g (47 mmol) 4-chlorothiophenol, and 6.5 g (47 mmol) anhydrous potassium carbonate in 100 ml dry DMF was stirred for 3 h at 80° C. It was filtered and the filtrate was concentrated under reduced pressure. The concentrate was stirred in water, and the resulting solid was filtered off, washed with water, and recrystallized from ethanol to give 10.7 g (82%) of the crude title compound.

reactant | 4-methylphenacyl bromide | 47 mmol, 10.0 g | CC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO
reactant | 4-chlorothiophenol | 47 mmol, 6.8 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 47 mmol, 6.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-(4-Chlorophenylthio)-1-(4-methylphenyl)ethanone | 10.7 g, 82% | ClC1=CC=C(C=C1)SCC(=O)C1=CC=C(C=C1)C | C15H13ClOS
